US07893090B2
5-(4-Fluoro-phenyl)-2H-[1,2,3]triazole-4-carboxylic acid methyl ester (2.21 g, 10 mmol) in THF (10 ml) was added drop-wise to an ice-cooled slurry of sodium hydride (0.42 g, 60% dispersion in mineral oil, 10 mmol) in THF (45 ml), under argon. After stirring at room temperature for 1 h, the reaction mixture was heated at 80° C. for 16 h. Water was added to the cooled mixture and the product was extracted with diethyl ether (2×). The combined organics were washed with brine, dried (Na2SO4) and the solvent removed in vacuo. Chromatography (silica gel, 10-50% ethyl acetate-pentane) afforded 5-(4-Fluoro-phenyl)-1-methyl-2H-[1,2,3]triazole-4-carboxylic acid methyl ester (763 mg, 33%) and the title compound (943 mg, 40%).

reactant | 5-(4-Fluoro-phenyl)-2H-[1,2,3]triazole-4-carboxylic acid methyl ester | 10 mmol, 2.21 g | COC(=O)C1=NNN=C1C1=CC=C(C=C1)F | C10H8FN3O2
reactant | sodium hydride | 10 mmol, 0.42 g | [H-].[Na+]
reactant | Water | O | H2O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | THF | 45 ml | C1CCOC1 | C4H8O
product | 5-(4-Fluoro-phenyl)-1-methyl-2H-[1,2,3]triazole-4-carboxylic acid methyl ester | 763 mg, 33% | COC(=O)C=1NNN(C1C1=CC=C(C=C1)F)C | C11H12FN3O2
